US20010041700A1
(R)-2-(Cyclohexylmethyl) succinic acid 1-methyl ester (1.00 g, 4.38 mmol) was dissolved in 10 mL of DMF and cooled to 0° C. with an ice-water bath. EDC (1.12 g, 5.69 mmol) then 1-hydroxybenzotriazole (0.77 g, 5.69 mmol) were added and stirring continued, under argon, for 25 min. Morpholine (0.76 mL, 8.76 mmol) was added and stirring was continued overnight (16 h). The solution was diluted with 200 mL of EtOAc and washed with a 1.0 M solution of HCl (3×100 mL), a saturated solution of NaHCO3 (3×100 mL), water (100 mL), then with brine (100 mL). The organic layer was dried over MgSO4, filtered and concentrated by rotary evaporation to give (R)-2-Cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyric acid 1-methyl ester (1.26 g, 99%) as a white solid. The product was used in the following step without purification.

reactant | (R)-2-(Cyclohexylmethyl) succinic acid 1-methyl ester | 4.38 mmol, 1.00 g | COC([C@@H](CC(=O)O)CC1CCCCC1)=O | C12H20O4
reactant | EDC | 5.69 mmol, 1.12 g
reactant | 1-hydroxybenzotriazole | 5.69 mmol, 0.77 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Morpholine | 8.76 mmol, 0.76 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (R)-2-Cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyric acid 1-methyl ester | 1.26 g, 99% | COC([C@@H](CC(=O)N1CCOCC1)CC1CCCCC1)=O | C16H27NO4
